* TB09 - PROPOSED FIXES, verified with the same real TI LM339 macromodel
*
* Three defects are addressed together, because they interact:
*   (1) N1_SUM (0.20..3.10 V) and V_REF (1.65 V) are outside the LM339's
*       input common-mode range at Vcc=3.3 (datasheet 1.80 V ceiling,
*       TI macromodel 1.30 V ceiling).
*   (2) No hysteresis -> 747 transitions per crossing (TB06 C).
*   (3) No real pull-up: the only path from 1OUT to +3.3V is R30 (1k) in
*       series with the LED, and an LED at sub-mA current is a very high
*       dynamic impedance. Hysteresis CANNOT work without a defined logic
*       high, so a pull-up is a prerequisite for fix (2), not a nicety.
*
* FIX AS SIMULATED (keeps the LM339 -- no part change, works on a fabbed board):
*   - Attenuate BOTH comparator inputs by 3 about ground. Scaling both sides
*     by the same factor leaves the comparison identical but moves the whole
*     common-mode operating point into the valid window:
*       N1_SUM/3 = 0.066 .. 1.03 V     V_REF/3 = 0.55 V     both < 1.30 V
*     R_A 20k / R_B 10k on N1_SUM ; R_C 20k / R_D 10k on V_REF.
*     20k/10k (not 200k/100k) keeps the Thevenin impedance at 6.67k so the
*     hysteresis resistor stays a sane value.
*   - Add R_PU 10k from 1OUT to +3.3V (defined logic high).
*   - Add R_H 4.7M from 1OUT back to IN+ for hysteresis:
*       Vhyst at IN+ = 3.3 * 6.67k/(6.67k + 4.7M) = 4.7 mV
*                    = 14 mV referred to N1_SUM -> ~7x the 2 mV flicker.
*
* NOTE: hysteresis REQUIRES the series resistance. N1_SUM is driven straight
* from U2's op-amp output (~0 ohm), so feeding current back into that node
* would simply be absorbed by the op-amp. The 20k/10k divider provides the
* needed source impedance as a side effect of the attenuation.
*
* ALTERNATIVE (cleaner, needs a part change): replace the LM339 with a
* rail-to-rail-input comparator in the same SOIC-14 quad pinout (e.g. LMV339).
* Then no attenuator is needed -- only a series R, a pull-up and R_H. Not
* simulated here: no vendor model was obtainable for that part, so it is
* recommended on datasheet grounds only and is flagged as such in RESULTS.md.

.include ../models/LM2901.lib
.options gmin=100f
.param VDD=3.3
.model LED_RED D(IS=2e-18 N=2.0 RS=2 CJO=30p)

Vdd  vdd 0 DC {VDD}
Vref vref 0 DC 1.65

*================ (A) FIXED comparator, DC sweep ========================
Vsum nsum 0 DC 1.65
* attenuate N1_SUM by 3
RA   nsum nsp 20k
RB   nsp  0   10k
* attenuate V_REF by 3
RC   vref nrp 20k
RD   nrp  0   10k
XA   nsp nrp vdd 0 outa LM2901
RPUa vdd outa 10k
RHa  outa nsp 4.7Meg
* LED still lights when OUT is LOW
R30a vdd nleda 1k
D1a  nleda outa LED_RED

*================ (B) FIXED comparator, chatter rig =====================
* Same slow ramp + worst-case-phase flicker + broadband noise as TB06 (C),
* but now at the real N1_SUM level (crossing 1.65 V) and through the fix.
Vrampb nrampb 0 DC 0 PWL(0 1.64 40m 1.66)
Vflickb nflickb nrampb SIN(0 2m 100 0 0 180)
Vnoiseb nnzb nflickb DC 0 trnoise(200u 1u 0 0)
RAb  nnzb nspb 20k
RBb  nspb 0    10k
RCb  vref nrpb 20k
RDb  nrpb 0    10k
XB   nspb nrpb vdd 0 outb LM2901
RPUb vdd outb 10k
RHb  outb nspb 4.7Meg

.control
set wr_singlescale

echo "================================================================"
echo "TB09 (A) FIXED COMPARATOR: DC sweep of N1_SUM over its real range"
echo "================================================================"
dc Vsum 0.2 3.1 0.002
meas dc f_0v2 find v(outa) at=0.2
meas dc f_1v0 find v(outa) at=1.0
meas dc f_1v4 find v(outa) at=1.4
meas dc f_1v6 find v(outa) at=1.6
meas dc f_1v7 find v(outa) at=1.7
meas dc f_2v0 find v(outa) at=2.0
meas dc f_2v5 find v(outa) at=2.5
meas dc f_3v1 find v(outa) at=3.09
echo "  N1_SUM=0.20 (below ref -> expect OUT LOW,  LED ON)  -> $&f_0v2 V"
echo "  N1_SUM=1.00 (below ref -> expect OUT LOW,  LED ON)  -> $&f_1v0 V"
echo "  N1_SUM=1.40 (below ref -> expect OUT LOW,  LED ON)  -> $&f_1v4 V"
echo "  N1_SUM=1.60 (below ref -> expect OUT LOW,  LED ON)  -> $&f_1v6 V"
echo "  N1_SUM=1.70 (above ref -> expect OUT HIGH, LED OFF) -> $&f_1v7 V"
echo "  N1_SUM=2.00 (above ref -> expect OUT HIGH, LED OFF) -> $&f_2v0 V"
echo "  N1_SUM=2.50 (above ref -> expect OUT HIGH, LED OFF) -> $&f_2v5 V"
echo "  N1_SUM=3.09 (above ref -> expect OUT HIGH, LED OFF) -> $&f_3v1 V"

meas dc vtrip when v(outa)=1.65 rise=1
echo "  Trip point (rising) = $&vtrip V   [target 1.65 V + half hysteresis]"

let ledi = (v(vdd)-v(nleda))/1000
meas dc li_on  find ledi at=0.2
meas dc li_off find ledi at=3.09
echo "  LED current, OUT low  = $&li_on  A"
echo "  LED current, OUT high = $&li_off A"
wrdata results/tb09a_fixed_dc.txt v(outa) ledi

echo ""
echo "================================================================"
echo "TB09 (B) FIXED COMPARATOR: same noisy crossing that gave 747 edges"
echo "================================================================"
tran 2u 40m
echo "  Transient written; edge count via count_edges.py"
wrdata results/tb09b_fixed_chatter.txt v(outb) v(nnzb) v(nspb)

quit
.endc

.end
